US07307084B2
AG. 4-Benzyloxy-6-bromo-1-methyl-2-trifluoromethyl-1H-benzimidazole
A solution of 40 g (107.8 mmol) 4-benzyloxy-6-bromo-2-trifluoromethyl-1H-benzimidazole in acetone (600 ml) was treated with 44.7 g (323.4 mmol) potassium carbonate and the reaction was refluxed for 1 h. 13.4 ml Methyl iodide were added and the mixture was stirred for 2 h. After cooling to room temperature, the precipitate was filtered off and the filtrate was concentrated in vacuo. Purification of the residue by column chromatography on silica gel (petroleum ether/ethyl acetate=15:1) afforded 13.2 g (32%) of the title compound as a white solid. m.p. 141°-142° C.

reactant | 4-benzyloxy-6-bromo-2-trifluoromethyl-1H-benzimidazole | 107.8 mmol, 40 g | C(C1=CC=CC=C1)OC1=CC(=CC=2NC(=NC21)C(F)(F)F)Br | C15H10BrF3N2O
reactant | potassium carbonate | 323.4 mmol, 44.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 13.4 ml | CI | CH3I
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 4-Benzyloxy-6-bromo-1-methyl-2-trifluoromethyl-1H-benzimidazole | 13.2 g, 32% | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)C(F)(F)F)C)Br | C16H12BrF3N2O
